US07579488B2
Preparation of 5-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethylpropyl}-7-methyl-benzofuran-2-carboxylic acid
A solution of 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid ethyl ester (506 mg, 1.06 mmol) in ethylene glycol (5.0 mL) is treated with BF3-Et2O (3.0 ml). The reaction mixture is heated to 80° C. and stirred for 3 h. The reaction is quenched with water (20 mL) and extracted with CH2Cl2 (30×2 mL). The organic layer is dried over Na2SO4, concentrated, purified on column chromatography (8% EtOAc/Hex) to afford the title compound (550 mg, 99%).

reactant | 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid ethyl ester | 1.06 mmol, 506 mg | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2C)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C30H38O5
reactant | BF3 Et2O | 3.0 ml | B(F)(F)F.CCOCC
solvent | ethylene glycol | 5.0 mL | C(CO)O | C2H6O2
product | 5-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethylpropyl}-7-methyl-benzofuran-2-carboxylic acid | 550 mg, 99% | C(C)(C)(C)C1(OCCO1)COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C(C2=C(C=C(O2)C(=O)O)C1)C)C | C30H38O6
